US06455528B1
Synthesis of 2-(4-(4-(Aminomethyl)phenylmethyl)-piperazin-1-yl)pyrimidine
N-(4-((4-(Pyrimidin-2-yl)piperazin-1-yl)methyl)phenylmethyl)acetamide (4.0 g) was dissolved in 10% hydrochloric acid (50 ml) and the solution was refluxed under heating for 12.5 hr. To the reaction mixture was added 10% aqueous sodium hydroxide solution to make it alkaline, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was crystallized from diisopropyl ether to give the title compound (2.2 g) as pale-yellow crystals, m.p.=70-72° C.

reactant | N-(4-((4-(Pyrimidin-2-yl)piperazin-1-yl)methyl)phenylmethyl)acetamide | 4.0 g | N1=C(N=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)CNC(C)=O | C18H23N5O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 2-(4-(4-(Aminomethyl)phenylmethyl)-piperazin-1-yl)pyrimidine | 2.2 g | NCC1=CC=C(C=C1)CN1CCN(CC1)C1=NC=CC=N1 | C16H21N5
